US09328110B2
By the general method described in Step 7 of Example 1, 6-(3-nitroquinolin-4-ylamino)hexanal (9.9 g, 34.5 mmol) was reacted with phenylmagnesium bromide (36.2 mL of a 1 M solution in THF, 36.2 mmol) to provide 6-(3-nitroquinolin-4-ylamino)-1-phenylhexan-1-ol (4.4 g) as a bright yellow solid after chromatography on silica gel (elution with ethyl acetate and hexane, 1:1, volume:volume).

reactant | 6-(3-nitroquinolin-4-ylamino)hexanal | 34.5 mmol, 9.9 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCC=O | C15H17N3O3
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | 6-(3-nitroquinolin-4-ylamino)-1-phenylhexan-1-ol | 4.4 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCC(O)C1=CC=CC=C1 | C21H23N3O3
